US04822798
Ethyl 6-methyl-4-(2-nitrophenyl)-2-phenyl-1,4-dihydro-pyrimidine-5-carboxylate. Process variant A
15.8 g (60 mmols) of ethyl 2-nitrobenzylidene-acetoacetate are boiled under reflux with 11.5 g (66 mmols) of benzamidine hydrochloride hydrate and 5.91 g (72 mmols) of anhydrous sodium acetate in 180 ml of ethanol for 18 hours. The mixture is cooled and concentrated. The evaporation residue obtained is taken up in a mixture of ethyl acetate, water and 100 ml of 1 N hydrochloric acid and the mixture is shaken vigorously and left to separate. The ethyl acetate phase is extracted once more with 100 ml of 1 N hydrochloric acid and the combined aqueous phases are extracted once by shaking with ether and then rendered alkaline with concentrated sodium hydroxide solution. The mixture is extracted twice with ethyl acetate and the combined ethyl acetate phases are washed with water, dried and concentrated. The resulting oil is stirred with a little cold acetonitrile; the crystals formed are filtered off with suction and washed with cold acetonitrile. 12.2 g (55.71% of theory) of a slightly yellow-colored product of melting point 102°-105° C. are obtained.

reactant | ethyl 2-nitrobenzylidene-acetoacetate | 60 mmols, 15.8 g | [N+](=O)([O-])C1=C(C=CC(CC(=O)OCC)=O)C=CC=C1 | C13H13NO5
reactant | benzamidine hydrochloride hydrate | 66 mmols, 11.5 g | O.Cl.C(C1=CC=CC=C1)(=N)N
reactant | sodium acetate | 72 mmols, 5.91 g | C(C)(=O)[O-].[Na+]
reactant | hydrochloric acid | 1 N, 100 ml | Cl | ClH
reactant | ethanol | 180 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | water | O | H2O
product | Ethyl 6-methyl-4-(2-nitrophenyl)-2-phenyl-1,4-dihydro-pyrimidine-5-carboxylate | CC1=C(C(N=C(N1)C1=CC=CC=C1)C1=C(C=CC=C1)[N+](=O)[O-])C(=O)OCC | C20H19N3O4
